US08980877B2
(±)-(E)-3-[1′-Benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid (250 mg, 0.604 mmol) was reacted with NH2OTHP following the procedure described in Example 12, Step C, giving (E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (270 mg) as a light yellow solid.

reactant | (±)-(E)-3-[1′-Benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid | 0.604 mmol, 250 mg | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C23H23NO4
reactant | NH2OTHP | NOC1OCCCC1 | C5H11NO2
product | (E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 270 mg | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C28H32N2O5
